US06833387B1
N-(3,4-Dichlorobenzyl)-3-morpholinoindole-2-carboxylic acid (Compound 72)
Trifluoroacetic acid (5 ml) was added to a solution of t-butyl N-(3,4-dichlorobenzyl)-3-morpholinoindole-2-carboxylate (293 mg) in dichloromethane (10 ml) and the reaction stirred at ambient temperature overnight. The reaction was concentrated in vacuo and the residue purified by column chromatography using 20% ethyl acetate:iso-hexane as eluent to afford the product as a brown solid (125 mg, 30%); NMR d (CD3SOCD3) 3.10 (t, 4H), 3.83 (t, 4H), 5.36 (s, 2H), 7.01 (t, 1H), 7.12 (m, 2H), 7.46 (m, 2H), 7.58 (m, 2H), M/z(−) 404.2 (M−H+).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl N-(3,4-dichlorobenzyl)-3-morpholinoindole-2-carboxylate | 293 mg | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)N2CCOCC2)C(=O)OC(C)(C)C)C=CC1Cl | C24H26Cl2N2O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3,4-Dichlorobenzyl)-3-morpholinoindole-2-carboxylic acid | 125 mg, 30% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)N2CCOCC2)C(=O)O)C=CC1Cl | C20H18Cl2N2O3
